US06933305B2
By a similar re action operation as in Starting Material Synthetic Example 6 using 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester (2.70 g) and potassium carbonate (4.42 g), the objective 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid (1.80 g) was obtained as colorless crystals.

reactant | 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester | 2.70 g | COC(=O)C1=CC=C2C(CCSC2=C1C)NC(=O)OC(C)(C)C | C17H23NO4S
reactant | potassium carbonate | 4.42 g | C([O-])([O-])=O.[K+].[K+]
product | 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid | 1.80 g | C(C)(C)(C)OC(=O)NC1CCSC2=C(C(=CC=C12)C(=O)O)C | C16H21NO4S
